US04902698
(b) 4-(3-Benzenesulphonamidopyrid-2-yl)butanoic acid
A solution of 3-benzenesulphonamido-2-(3-cyanopropyl)pyridine (5.22 g) in ethanol (100 ml) and 15% w/v sodium hydroxide solution (50 ml) was refluxed for 6 hours. The pH of the solution was adjusted to pH=4 when a white solid precipitated from the solution. The solid was collected by filtration and recrystallised from ethanol to give the title compound (3.34 g) as white needles. m.p. 156°-157° C.

reactant | 3-benzenesulphonamido-2-(3-cyanopropyl)pyridine | 5.22 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C(=NC=CC1)CCCC#N | C15H15N3O2S
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(3-Benzenesulphonamidopyrid-2-yl)butanoic acid | 3.34 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C(=NC=CC1)CCCC(=O)O | C15H16N2O4S
